US08012974B2
Acetic anhydride (0.85 mL, 9.012 mmol) was added at 0° C. to a mixture of racemic trans 3-hydroxymethyl-cyclohexyl-carbamic acid tert-butyl ester (1.69 g, 7.37 mmol) and pyridine (0.78 mL, 9.646 mmol) in 20 mL of DCM. The resulting mixture was stirred at 0° C. to RT overnight and then at 50° C. for 4 hours before being cooled to RT and partitioned between DCM and aqueous 1M HCl. The aqueous layer was back extracted twice with DCM. The combined organic layers were dried (Na2SO4), filtered, and evaporated to give 2 g of racemic trans acetic acid 3-tert-butoxycarbonylamino-cyclohexylmethyl ester (>95% yield).

reactant | Acetic anhydride | 9.012 mmol, 0.85 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | racemic trans 3-hydroxymethyl-cyclohexyl-carbamic acid tert-butyl ester | 7.37 mmol, 1.69 g | C(C)(C)(C)OC(N[C@@H]1C[C@H](CCC1)CO)=O | C12H23NO3
reactant | pyridine | 9.646 mmol, 0.78 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | racemic trans acetic acid 3-tert-butoxycarbonylamino-cyclohexylmethyl ester | 2 g, >95% yield | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](CCC1)COC(C)=O | C14H25NO4
